US06448255B1
A mixture of 3-(4-chlorobenzoyl)-2-pyridinecarboxylic acid (13 g), potassium cyanide (4.56 g), and acetic acid (30 mL) was heated at 120-125 C. in a sealed pressure bottle for 48 h. After cooling to ambient temperature, the mixture was poured into ice water. The precipitated solid was dissolved in ethyl acetate, washed with sodium bicarbonate saturated solution then with water. The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was treated with ether. The formed solid was collected by filtration and dried to give 10.2 g of 5-(4-chlorophenyl)-7-oxo-5,7-dihydrofuro[3,4-b]pyridine-5-carboxamide. A mixture of 5-(4-chlorophenyl)-7-oxo-5,7-dihydrofuro[3,4-b]pyridine-5-carboxamide (5 g), 2-methyl-1,2-diamino propane (6.3 g), and toluene (80 mL) was heated at reflux for 18 h in a flask equipped with a water separator. The mixture was cooled to ambient temperature. The precipitated material was collected by filtration and dried to give the title compound (2.4 g), m.p. 257-260° C.

reactant | 3-(4-chlorobenzoyl)-2-pyridinecarboxylic acid | 13 g | ClC1=CC=C(C(=O)C=2C(=NC=CC2)C(=O)O)C=C1 | C13H8ClNO3
reactant | potassium cyanide | 4.56 g | [C-]#N.[K+]
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-chlorophenyl)-7-oxo-5,7-dihydrofuro[3,4-b]pyridine-5-carboxamide | 10.2 g | ClC1=CC=C(C=C1)C1(OC(C2=NC=CC=C21)=O)C(=O)N | C14H9ClN2O3
